Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],3.65542746569
[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.975392438380001
[C:3](#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.31708289562
[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.79078509431
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.14325283695
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.159416204369999
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1]=[O:2],0.77023604412
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4][H:5])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6],5.13962400006
[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.62636317809
[H:1][O:2][C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.57877081563
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3][C:12]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])([H:13])[H:14],3.872619
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7],1.82258992947
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.5889970451299995
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],-4.342682927019999
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:5]([H:6])=[C:7]([H:8])[H:9].[O:3][H:4],4.3627848482300005
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.17247786395
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[O:8]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-0.565413851481
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1],3.57596580047
[O:1]=[C:2]=[C:3][C:4][O:5][H:6]>>[C:2]#[C:3][C:4][O:5][H:6].[O:1],7.3851729507
[C:9]([H:10])#[C:11][H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],0.7429997084100001
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.09864791443
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],2.11947666883
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.839429704890001
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7]>>[C:1]#[C:2][C:3]([H:4])[O:6][O:7].[H:5],2.25307904979
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],5.14309278079
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.391432689019999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-4.07348564687
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.49017667154
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.920856526
